US07285569B2
5-Methyl-1H-pyrazole-3-carboxylic acid (126 mg, 1 mmol) and 5,6-diamino-1-isopropyl-1,3-dihydro-benzoimidazol-2-one (206 mg, 1 mmol) were heated to 160° C. in a mixture of polyphosphoric acid (5 g) and phosphorus pentoxide (500 mg, 3.5 mmol) for 6 h. This mixture was poured on water (20 ml) and stirring continued until a precipitate formed. After filtration the crude product was suspended in water and neutralized by the addition of aqueous ammonia (25%). The precipitate was collected, washed with water and dried in vacuo. Purification was achieved by chromatography on silica (dichloromethane/methanol 95:5) yielding 1-isopropyl-6-(5-methyl-1H-pyrazol-3-yl)-3,5-dihydro-1H-benzo[1,2-d;4,5-d′]diimidazol-2-one as slightly yellow solid. Yield 36 mg (12%)

reactant | 5-Methyl-1H-pyrazole-3-carboxylic acid | 1 mmol, 126 mg | CC1=CC(=NN1)C(=O)O | C5H6N2O2
reactant | 5,6-diamino-1-isopropyl-1,3-dihydro-benzoimidazol-2-one | 1 mmol, 206 mg | NC1=CC2=C(N(C(N2)=O)C(C)C)C=C1N | C10H14N4O
reactant | phosphorus pentoxide | 3.5 mmol, 500 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1-isopropyl-6-(5-methyl-1H-pyrazol-3-yl)-3,5-dihydro-1H-benzo[1,2-d;4,5-d′]diimidazol-2-one | C(C)(C)N1C(NC2=C1C=C1N=C(NC1=C2)C2=NNC(=C2)C)=O | C15H16N6O
